US06340678B1
To a solution of 250 mg of ethyl (Z)-[(l-{[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]acetyl}-4-piperidyl)-(trifluoroacetyl)amino]acetate in 5 ml of ethanol was added a solution of 100 mg of potassium carbonate in 2 ml of water, and the mixture was stirred at room temperature for three days. After evaporation of the solvent, water was added to the residue, and the mixture was washed with ethyl acetate (a washing A) The aqueous layer was acidified and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of NaCl and dried over anhydrous magnesium sulfate, and the solvent was evaporated therefrom. The resulting residue was collected by filtration to give 60 mg of (Z)-[(1-{[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]acetyl}-4-piperidyl)(trifluoroacetyl)amino]acetic acid as a colorless amorphous powder.

reactant | ethyl (Z)-[(l-{[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]acetyl}-4-piperidyl)-(trifluoroacetyl)amino]acetate | 250 mg | FC\1(CCN(C2=C(/C1=C/C(=O)N1CCC(CC1)N(C(C(F)(F)F)=O)CC(=O)OCC)C=CC=C2)C(=O)C2=C(N=C(S2)C2=CC=CC=C2)C)F | C34H33F5N4O5S
reactant | potassium carbonate | 100 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | (Z)-[(1-{[4,4-difluoro-1-(4-methyl-2-phenylthiazole-5-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]acetyl}-4-piperidyl)(trifluoroacetyl)amino]acetic acid | 60 mg | FC\1(CCN(C2=C(/C1=C/C(=O)N1CCC(CC1)N(C(C(F)(F)F)=O)CC(=O)O)C=CC=C2)C(=O)C2=C(N=C(S2)C2=CC=CC=C2)C)F | C32H29F5N4O5S
